US06894062B1
7-Bromo-3-ethyl-quinoline
To a well-stirred mixture consisting of 3-bromo-aniline (5.40 g, 31.4 mmol), sodium 3-nitro-benzene sulfonate (4.25 g, 18.9 mmol), 8.5 g (177 mmol) of concentrated sulfuric acid, and 3.2 ml of water heated to 100° C., 2-ethyl acrolein (5.0 ml, 51 mmol) was added. After maintaining the reaction temperature at 100° C. for 1 hour, the temperature was elevated to 110° C. An additional portion of 2-ethyl acrolein (1.0 ml, 10.2 mmol) was added, and the reaction was stirred at 110° C. for 1 hour. The reaction temperature was then elevated to 120° C. prior to addition of another 1.0 ml (10.2 mmol) portion of 2-ethyl acrolein. After heating the reaction at 120° C. for 1 hour, the temperature was increased to 130° C. prior to addition of 1.0 ml (10.2 mmol) of 2-ethyl acrolein. Finally, the reaction temperature was raised to 140° C. and maintained at that temperature for 2 hours after addition of a final portion (1.3 ml, 13.2 mol) of 2-ethyl acrolein. The cooled reaction was quenched with ice (50 g), and the pH of the resulting mixture was adjusted to by addition of 6 N aqueous sodium hydroxide. The mixture was then extracted with two 30 ml portions of methylene chloride. The combined organic extracts were dried (anhydrous sodium sulfate) and concentrated in vacuo, affording an amber oil. Flash chromatography of the entire sample utilizing the Biotage Flash 401i™ silica gel flash chromatography module and manufacturer's prepacked silica gel cartridges described in Example 1, Step 4, and eluting with methylene chloride, afforded the title compound (1.46 g, 19.7% yield) as a viscous light amber syrup which solid on standing.

reactant | 3-bromo-aniline | 31.4 mmol, 5.40 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | sodium 3-nitro-benzene sulfonate | 18.9 mmol, 4.25 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | sulfuric acid | 177 mmol, 8.5 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-ethyl acrolein | 51 mmol, 5.0 ml | C(C)C(C=O)=C | C5H8O
reactant | 2-ethyl acrolein | 10.2 mmol, 1.0 ml | C(C)C(C=O)=C | C5H8O
reactant | 2-ethyl acrolein | 10.2 mmol, 1.0 ml | C(C)C(C=O)=C | C5H8O
reactant | 2-ethyl acrolein | 13.2 mol, 1.3 ml | C(C)C(C=O)=C | C5H8O
solvent | water | 3.2 ml | O | H2O
product | 7-Bromo-3-ethyl-quinoline | 1.46 g, 19.7% yield | BrC1=CC=C2C=C(C=NC2=C1)CC | C11H10BrN
